US08710245B2
(b) Synthesis of methyl 1-(((9H-fluoren-9-yl)methoxy)carbonylamino)cyclohexanecarboxylate
To a mixture of methyl 1-aminocyclopropanecarboxylate (5.8 g, 50.4 mmol) and Na2CO3 (8.0 g, 74.6 mmol) in 1,4-dioxane (50 mL) and water (50 mL) at 0° C. was added FmocCl (19.4 g, 75.2 mmol). The resulting mixture was warmed gradually to room temperature. After the amine was consumed completely as indicated by TLC, water (50 mL) was added and the mixture was extracted with DCM (3×60 mL). The DCM extract was washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (15 g, 88%).

reactant | methyl 1-aminocyclopropanecarboxylate | 50.4 mmol, 5.8 g | NC1(CC1)C(=O)OC | C5H9NO2
reactant | Na2CO3 | 74.6 mmol, 8.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | FmocCl | 75.2 mmol, 19.4 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | methyl 1-(((9H-fluoren-9-yl)methoxy)carbonylamino)cyclohexanecarboxylate | 15 g, 88% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1(CCCCC1)C(=O)OC | C23H25NO4
